US07754757B2
Ethyl 4-aminobicyclo[2.2.1]heptane-1-carboxylate (50.0 mg) was dissolved in N,N-dimethylformamide (2 mL) and potassium-carbonate (40.0 mg) was added to the solution. (2S,4S)-1-(2-Bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile (64.2 mg) in N,N-dimethylformamide (1 mL) was then added dropwise at room temperature and the mixture was stirred for 1 hour. The insoluble materials were filtered and the filtrate was concentrated. The resulting residue was purified by silica gel column chromatography (NH silica, eluant: ethyl acetate) to give (2S,4S)-1-[[N-(4-ethoxycarbonylbicyclo[2.2.1]hept-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (89.0 mg).

reactant | Ethyl 4-aminobicyclo[2.2.1]heptane-1-carboxylate | 50.0 mg | NC12CCC(CC1)(C2)C(=O)OCC | C10H17NO2
reactant | potassium-carbonate | 40.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (2S,4S)-1-(2-Bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile | 64.2 mg | BrCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C7H8BrFN2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-1-[[N-(4-ethoxycarbonylbicyclo[2.2.1]hept-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 89.0 mg | C(C)OC(=O)C12CCC(CC1)(C2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C17H24FN3O3
